US05668128
In substantially the same manner as Working Example 2, benzylamine (3.53 g) was condensed with Boc-L-phenylalanine (7.96 g) to give N-(Boc-L-phenylalanyl)benzylamine (9.30 g) (yield 87%). The compound thus obtained (7.08 g) was dissolved in ethyl acetate (100 ml), to which was added 4N hydrochloric acid/ethyl acetate solution (80 ml, manufactured by Kokusan Chemical Works, Ltd.), and the mixture was left standing for a half hour at room temperature. The reaction mixture was treated with ethylether to give N-(L-phenylalanyl)benzylamine hydrochloride (3.51 g) (yield 60%). The compound thus obtained (0.96 g) was condensed, in substantially the same manner as Working Example 8, with monoethyl ester of (2S,3S)-N-methylaziridine-2,3-dicarboxylic acid (0.52 g) obtained in Working Example 42 to give the above-titled compound (Compound 91; 0.86 g) as white crystals (yield 71%).

reactant | benzylamine | 3.53 g | C(C1=CC=CC=C1)N | C7H9N
reactant | Boc-L-phenylalanine | 7.96 g | C(=O)(OC(C)(C)C)N[C@@H](CC1=CC=CC=C1)C(=O)O | C14H19NO4
product | N-(Boc-L-phenylalanyl)benzylamine | 9.30 g, yield 87% | C(=O)(OC(C)(C)C)N[C@@H](CC1=CC=CC=C1)C(=O)NCC1=CC=CC=C1 | C21H26N2O3
